US08431695B2
Preparation of 2-[4-{4-amino-5-(3-benzyloxyphenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide
In a manner similar to the procedure described for the preparation of Example 355 and using 5-(3-benzyloxyphenyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and 2-chloro-N,N-dimethylacetamide as starting material, 20 mg (23.6%) of the desired product was isolated. 1H NMR (400 MHz, DMSO-d5) δ 7.90 (s, 1H), 7.44-7.32 (m, 6H), 7.10 (s, 1H), 7.02-6.98 (m, 2H), 6.59 (s, 1H), 5.16 (s, 2H), 3.16 (s, 2H), 3.15-3.04 (m, 1H), 3.03 (s, 3H), 2.97-2.90 (m, 2H), 2.80 (s, 3H), 2.22-2.14 (m, 2H), 1.98-1.92 (m, 2H), 1.74-1.64 (m, 2H); LC-MS m/z [M+H]+485.2, RT 2.29 min.

reactant | 5-(3-benzyloxyphenyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H25N5O
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-[4-{4-amino-5-(3-benzyloxyphenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide | 20 mg, 23.6% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)CC(=O)N(C)C)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C28H32N6O2
